US04237138
Preparation of 4-(2-isopropoxyethoxy)piperidine
This compound was prepared similarly to Example A from N-acetyl-4-hydroxypiperidine and 1-bromo-2-isopropoxyethane. The compound was characterized by spectroscopic techniques.

reactant | N-acetyl-4-hydroxypiperidine | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | 1-bromo-2-isopropoxyethane | BrCCOC(C)C | C5H11BrO
product | 4-(2-isopropoxyethoxy)piperidine | C(C)(C)OCCOC1CCNCC1 | C10H21NO2
